US04731358
3-ethylthio-β-carboline
732 mg of 3-amino-β-carboline in 7 ml of diethyldisulfide are heated to 80° C. and mixed with 1 ml of isoamylnitrite. After 0.5 hours of heating to 80° C., it is again mixed with 1 ml of isoamylnitrite and heated to 80° C. for 1.5 hours. After distilling off, the residue is chromatographed twice on silica gel with ethyl acetate/cyclohexane as eluant. After absorptive precipitation of the corresponding evaporated fraction with cyclohexane/diisopropyl ether, 206 mg of 3-ethylthio-β-carboline with a 132°-133° C. melting point are obtained.

reactant | 3-amino-β-carboline | 732 mg | NC=1N=CC=2NC3=CC=CC=C3C2C1 | C11H9N3
reactant | isoamylnitrite | 1 ml | C(CC(C)C)ON=O | C5H11NO2
reactant | isoamylnitrite | 1 ml | C(CC(C)C)ON=O | C5H11NO2
reactant | diethyldisulfide | 7 ml | C(C)SSCC | C4H10S2
product | 3-ethylthio-β-carboline | C(C)SC=1N=CC=2NC3=CC=CC=C3C2C1 | C13H12N2S
